US07192968B2
(1R,2S)-1-Azido-2-(tert-butoxycarbonylamino)cyclohexane
(1S,2S)-1-(tert-Butoxycarbonylamino)-2-methane-sulfonyloxycyclohexane (475 mg) was dissolved in N,N-dimethylformamide (6 ml), sodium azide (156 mg) was added, and the mixture was stirred for 2 hours at 60° C. and then for 24 hours at 80° C. After diethyl ether was added to the reaction mixture to conduct water washing twice, the resultant organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane) to obtain the title compound (184 mg) as a colorless solid.

reactant | (1S,2S)-1-(tert-Butoxycarbonylamino)-2-methane-sulfonyloxycyclohexane | 475 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@H](CCCC1)OS(=O)(=O)C | C12H23NO5S
reactant | sodium azide | 156 mg | [N-]=[N+]=[N-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (1R,2S)-1-Azido-2-(tert-butoxycarbonylamino)cyclohexane | 184 mg | N(=[N+]=[N-])[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C11H20N4O2
